US04126687
A mixture of 5 parts of 1-(3-chloropropyl)-1,3-dihydro-3-(1-methylethenyl)-2H-benzimidazol-2-one, 3.9 parts of 4-(4-fluorophenyl)-4-piperidinol, 5.3 parts of sodium carbonate and 80 parts of 4-methyl-2-pentanone is stirred and refluxed for 48 hours with water-separator. The reaction mixture is cooled to room temperature, water is added and the whole is alkalized with 15 parts of a sodium hydroxide solution 60%. The layers are separated and the organic phase is dried, filtered and evaporated. The residue is purified by column-chromatography over silica gel using a mixture of trichloromethane and 10% of methanol as eluent. The pure fractions are collected and the eluent is evaporated. The oily residue is dissolved in 2-propanone. The solution is acidified with 2-propanol, previously saturated with gaseous hydrogen chloride, and the whole is stirred and refluxed for 15 minutes. The solvent is evaporated and the formed hydrochloride salt is dissolved in water. The free base is liberated in the conventional manner with a diluted sodium hydroxide solution. The product is extracted with 4-methyl-2-pentanone. The extract is dried, filtered and evaporated. The residue is crystallized from methylbenzene. The product is filtered off and dried, yielding 2.5 parts of 1-{3-[4-(4-fluorophenyl)-4-hydroxy-1-piperidinyl]propyl}-1,3-dihydro-2H-benzimidazol-2-one; mp. 135.4° C.

reactant | 1-(3-chloropropyl)-1,3-dihydro-3-(1-methylethenyl)-2H-benzimidazol-2-one | ClCCCN1C(N(C2=C1C=CC=C2)C(=C)C)=O | C13H15ClN2O
reactant | 4-(4-fluorophenyl)-4-piperidinol | FC1=CC=C(C=C1)C1(CCNCC1)O | C11H14FNO
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
solvent | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
product | 1-{3-[4-(4-fluorophenyl)-4-hydroxy-1-piperidinyl]propyl}-1,3-dihydro-2H-benzimidazol-2-one | FC1=CC=C(C=C1)C1(CCN(CC1)CCCN1C(NC2=C1C=CC=C2)=O)O | C21H24FN3O2
